US07176161B2
Aluminum chloride (21.4 g, 161 mmol) was added to a stirring suspension of phthalic anhydride (6 g, 40 mmol) in tetrachloroethane (200 mL) under nitrogen. 1,3-Dihydroxy-2-methylbenzene (5 g, 40 mmol) was added and the mixture quickly thickened. After the precipitates were broken up with a spatula the reaction continued for 1 hour. The solution was diluted with ethyl acetate (˜600 mL) and washed with 1M hydrochloric acid (2×200 mL). The product was extracted from the organic layer into a saturated solution of sodium bicarbonate in water (600 mL). The basic aqueous phase was acidified with 3M hydrochloric acid to a pH of 5. The product was extracted from the aqueous phase into ethyl acetate (400 mL), washed with brine (2×100 mL), dried over magnesium sulfate and concentrated to give a brownish solid. The solid was slurried in dichloromethane (20 mL) and filtered to give 2-(2,4-dihydroxy-3-methylbenzoyl)benzoic acid as an off white powder (4.6 g, 16.9 mmol, 42% yield).

reactant | Aluminum chloride | 161 mmol, 21.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phthalic anhydride | 40 mmol, 6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 1,3-Dihydroxy-2-methylbenzene | 40 mmol, 5 g | OC1=C(C(=CC=C1)O)C | C7H8O2
solvent | tetrachloroethane | 200 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | ethyl acetate | ˜600 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(2,4-dihydroxy-3-methylbenzoyl)benzoic acid | OC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1C)O | C15H12O5
